US06544985B2
{2-Dimethylamino-2′-fluoro-5-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert.-butyl ester
The title compound was prepared from (5-amino-2-dimethylamino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example J20) (691 mg, 2.0 mmol) and 2,2-dimethyl-6-(3-[1,2,3]triazol-1-yl-phenyl)-[1,3]dioxin-4-one (Example L4) (543 mg, 2.0 mmol) according to the general procedure M. Obtained as a yellow solid (820 mg).

reactant | (5-amino-2-dimethylamino-2′-fluoro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | 2.0 mmol, 691 mg | C(C)(C)(C)OC(NC1=CC(=C(C=C1N)C1=C(C=CC=C1)F)N(C)C)=O | C19H24FN3O2
reactant | 2,2-dimethyl-6-(3-[1,2,3]triazol-1-yl-phenyl)-[1,3]dioxin-4-one | 2.0 mmol, 543 mg | CC1(OC(=CC(O1)=O)C1=CC(=CC=C1)N1N=NC=C1)C | C14H13N3O3
product | {2-Dimethylamino-2′-fluoro-5-[3-oxo-3-(3-[1,2,3]triazol-1-yl-phenyl)-propionylamino]-biphenyl-4-yl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=CC(=C(C=C1NC(CC(C1=CC(=CC=C1)N1N=NC=C1)=O)=O)C1=C(C=CC=C1)F)N(C)C)=O | C30H31FN6O4
